US06057369
(E)-2-t-Butoxycarbonyl-7-phenylhept-2-enyl benzoate (5.9 g, 15 mmol) is dissolved in MeOH (75 mL) and cooled to 0° C. K2CO3 (2 g, 15 mmol) is added with stirring and the reaction is allowed to warm to 23° C. After 2 hours the reaction is neutralized with HOAc and the reaction is concentrated to approximately half of its volume. After diluting with ether (500 mL), the solution is washed with water (50 mL) and brine (50 mL). The resulting solution is dried (MgSO4) and concentrated in vacuo. The crude reaction mixture is purified by column chromatography (silica, 25% ether in petroleum ether) to give t-butyl (E)-2-hydroxymethyl-7-phenylhept-2-enoate (2.2 g, 51%): 1H NMR (300 MHz, CDCl3) δ 7.30-7.25 (m, 2H), 7.20-7.15 (m, 3H), 6.75 (t, J=7.7 Hz, 1H), 4.28 (d, J=6.8 Hz, 2H), 2.65-2.60 (m, 3H), 2.26 (q, J=7.5 Hz, 2H), 1.71-1.61 (m, 2H), 1.53-1.43 (m, 11H).

reactant | (E)-2-t-Butoxycarbonyl-7-phenylhept-2-enyl benzoate | 15 mmol, 5.9 g | C(C1=CC=CC=C1)(=O)OC/C(=C\CCCCC1=CC=CC=C1)/C(=O)OC(C)(C)C | C25H30O4
reactant | K2CO3 | 15 mmol, 2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HOAc | CC(=O)O | C2H4O2
solvent | MeOH | 75 mL | CO | CH4O
product | t-butyl (E)-2-hydroxymethyl-7-phenylhept-2-enoate | 2.2 g, 51% | OC/C(/C(=O)OC(C)(C)C)=C\CCCCC1=CC=CC=C1 | C18H26O3
